US06881736B1
(b) (S)-4-[4-[2-[6-(Methylamino)pyridin-2-yl]ethoxy]phenyl]-3-(pyridin-3-yl)butanoic acid
2.0 M NaOH (15 mL, 30 mmole) was added to a solution of ethyl (S)-4-[4-[2-[6-(methylamino)pyridin-2-yl]ethoxy]phenyl]-3-(pyridin-3-yl)butanoate (9.2 g, 22 mmole) in dioxane/H2O (100 mL), and the mixture was heated at 50° C. After 18 hr, the reaction was cooled to RT, acidified with 10% HCl (25 mL), and concentrated to 1/3 volume to precipitate a gum. The supernatant was decanted and the gum was partitioned between H2O and CHCl3. The layers were separated and the aqueous layer was extracted with CHCl3 (3×). The combined organic layers were dried (MgSO4)and concentrated, and the residue was taken up in H2O and 2 M NaOH (30 mL). The solution was washed with Et2O (3×), and the Et2O extracts were discarded. The aqueous solution was acidified with 10% HCl (50 mL), concentrated to 1/3 volume, and extracted with CHCl3 (3×). The organic layers were combined, dried (MgSO4), and concentrated to leave a foam. This foam was taken up in CH2Cl2, and the solution was diluted with hexanes and concentrated. This process was repeated three times. The resulting solid was dried in vacuo at 65° C. to afford the title compound (7.96 g, 92%): 1H NMR (400 MHz, MeOH-d4) δ 88.28 (narrow m, 1 H), 8.21 (d, J=1.7 Hz, 1 H), 7.68 (narrow m, 1 H), 7.48 (dd, J=8.5, 7.3 Hz, 1 H), 7.30 (dd, J=7.9, 4.9 Hz, 1 H), 6.91 (d, J=8.6 Hz, 2 H), 6.72 (d, J=8.6 Hz, 2 H), 6.56 (d, J=7.3 Hz, 1 H), 6.44 (d, J=8.5 Hz, 1 H), 4.20 (t, J=6.6 Hz, 2 H), 3.31-3.42 (m, 1 H), 3.02 (t, J=6.6 Hz, 2 H), 2.97 (dd, J=13.6, 6.5 Hz, 1 H), 2.87 (s, 3 H), 2.77 (dd, J=13.6, 8.9 Hz, 1 H), 2.71 (dd, J=15.6, 6.4 Hz, 1 H), 2.62 (dd, J=15.6, 8.9 Hz, 1 H); MS (ES) m/e 392 (M+H)+. Anal. Calcd for C23H25N3O3.0.1H2O: C, 70.25; H, 6.46; N, 10.68. Found: C, 70.32; H, 6.50; N, 10.32.

reactant | NaOH | 30 mmole, 2.0 M, 15 mL | [OH-].[Na+]
reactant | ethyl (S)-4-[4-[2-[6-(methylamino)pyridin-2-yl]ethoxy]phenyl]-3-(pyridin-3-yl)butanoate | 22 mmole, 9.2 g | CNC1=CC=CC(=N1)CCOC1=CC=C(C=C1)C[C@@H](CC(=O)OCC)C=1C=NC=CC1 | C25H29N3O3
reactant | HCl | 25 mL | Cl | ClH
solvent | dioxane H2O | 100 mL | O1CCOCC1.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-4-[4-[2-[6-(Methylamino)pyridin-2-yl]ethoxy]phenyl]-3-(pyridin-3-yl)butanoic acid | 7.96 g, 92% | CNC1=CC=CC(=N1)CCOC1=CC=C(C=C1)C[C@@H](CC(=O)O)C=1C=NC=CC1 | C23H25N3O3
